US08754073B2
45.1 5-fluoro-2-piperidin-4-yl-benzoxazole (V-8)
500 mg 2-amino-4-fluorophenol and 900 mg mono-tert-butyl piperidine-1,4-dicarboxylate are heated in 5 g polyphosphoric acid at 200° C. for 4 h. After cooling the reaction mixture is combined with ice water and made basic with 50% NaOH solution. The precipitate is suction filtered, washed with water and dried. 290 mg (V-8) are obtained as a solid.

reactant | 2-amino-4-fluorophenol | 500 mg | NC1=C(C=CC(=C1)F)O | C6H6FNO
reactant | mono-tert-butyl piperidine-1,4-dicarboxylate | 900 mg | N1(CCC(CC1)C(=O)[O-])C(=O)OC(C)(C)C
reactant | NaOH | [OH-].[Na+]
product | 5-fluoro-2-piperidin-4-yl-benzoxazole | FC=1C=CC2=C(N=C(O2)C2CCNCC2)C1 | C12H13FN2O
